US04695647
(iii) Preparation of Methyl-7-(2-oxocyclopentyl)-heptanoate
A 2.14 g. portion of 7-(2-oxocyclopentyl)-heptanoic acid was dissolved in 20 ml. of anhydrous ether and cooled to 0° C. in an ice bath. The stirred solution was then treated with ethereal diazomethane in about 1 ml. portions to control gas evolution until the yellow color persisted and bubbling was slow. The excess reagent was then blown off with a stream of nitrogen and the solvent evaporated at the rotovap. The residual oily ester was dried in vacuo over phosphorous pentoxide.

reactant | 7-(2-oxocyclopentyl)-heptanoic acid | O=C1C(CCC1)CCCCCCC(=O)O | C12H20O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | Methyl-7-(2-oxocyclopentyl)-heptanoate | COC(CCCCCCC1C(CCC1)=O)=O | C13H22O3
